US07595327B2
To a solution of (1R,2R)-1-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid (0.08 g) in DMF (0.8 mL) was added hydroxylamine hydrochloride (2 eq), benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate (1.3 eq) and diisopropylethylamine (4 eq). The reaction was stirred overnight and injected directly onto a reverse phase HPLC (CH3CN/H2O) to afford (1R,2R)-N,1-dihydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide (0.03 g, 37%) as a white solid. MS: 472.1 (M+H)+

reactant | (1R,2R)-1-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid | 0.08 g | O[C@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C23H24N2O6S
reactant | hydroxylamine hydrochloride | 2 eq | Cl.NO
reactant | benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate | 1.3 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 4 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
solvent | CH3CN H2O | CC#N.O
product | (1R,2R)-N,1-dihydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide | 0.03 g, 37% | ONC(=O)[C@@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)O | C23H25N3O6S
